US07129244B2
Synthesis of 7-chloro-3-(2-bromo-3,4,5-trimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine
Bromination of 7-chloro-3-(3,4,5-trimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine) with NBS (1.5 equivalents) was done following the general procedure 3 to give the title compound: HPLC RT was 6.541 min. 1HNMR (CDCl3): δ 6.52 (s, 1H), 5.74(s, 2H), 5.46 (s, 2H), 3.93 (s, 3H), 3.89 (s, 3H), 3.76 (s, 3H).

reactant | 7-chloro-3-(3,4,5-trimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=CC(=C(C(=C2)OC)OC)OC | C14H15ClN6O3
reactant | NBS | 1.5 equivalents | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 7-chloro-3-(2-bromo-3,4,5-trimethoxy-benzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-5-ylamine | ClC=1C2=C(N=C(N1)N)N(N=N2)CC2=C(C(=C(C(=C2)OC)OC)OC)Br | C14H14BrClN6O3
